US07981907B2
Compound V (ortho); 1-Iodo-2-methylsulfanylmethyl-benzene
To a mixture of 2-(2-iodo-benzyl)-isothiourea (13.53 g, 36.2 mmol) from previous step and a solution of NaOH (22 mL) in water (15 mL) was added dropwise dimethylsulfate (4.1 mL, 43.4 mmol). The reaction mixture was heated to reflux (105° C.) for 2 h, cooled. The resulting oil was then extracted into diethyl oxyde, the organic layer was washed with water, dried over Na2SO4. On concentration the solution generated a yellow oil that was directly used in the next step without any further purification (8.5 g, yield=89%).

reactant | 2-(2-iodo-benzyl)-isothiourea | 36.2 mmol, 13.53 g | IC1=C(CSC(N)=N)C=CC=C1 | C8H9IN2S
reactant | NaOH | 22 mL | [OH-].[Na+]
reactant | dimethylsulfate | 43.4 mmol, 4.1 mL | COS(=O)(=O)OC | C2H6O4S
solvent | water | 15 mL | O | H2O
product | 1-Iodo-2-methylsulfanylmethyl-benzene | yield=89% | IC1=C(C=CC=C1)CSC | C8H9IS
